US08048887B2
To a microwave vial was added dioxane (6 mL), water (0.600 mL), dicyclohexyl(2′,6′-dimethoxy biphenyl-2-yl)phosphine (S-Phos, 16.42 mg, 0.040 mmol), methyl 2-chloro-5-(2-(4-fluorophenyl)-3-(methyl carbamoyl)benzofuran-5-yl)benzoate (87.6 mg, 0.2 mmol), tribasic potassium phosphate (0.170 g, 0.800 mmol), palladium(II) acetate (8.98 mg, 0.040 mmol), and 2-chlorophenylboronic acid (0.094 g, 0.600 mmol). The vial was capped, degassed, flushed with N2 and heated in the microwave for 10 minutes at 130° C. The solvent was removed and the crude reaction mixture was taken up in 4 mL of acetonitrile and purified using a Shimadzu preparative HPLC employing acetonitrile/water/trifluoroacetic acid where solvent A was 10% acetonitrile/90% water/0.1% trifluoroacetic acid and solvent B was 10% water/90% acetonitrile/0.1% trifluoroacetic acid with a Waters Sunfire 5 μm C18 19×150 mm column at a gradient of 20-100% B and a flow rate of 25 mL/min. over 20 minutes with a 10 minute hold. The solvent was removed to give 43.8 mgs (80% yield) of methyl 2′-chloro-4-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)biphenyl-2-carboxylate as a yellow solid. The LC/MS data was obtained on a Shimadzu analytical LC/MICROMASS® Platform LC (ESI+) at 220 nm using the following set of conditions: PHENOMENEX® Luna 3 μm C18, 2×50 mm column, with a gradient of 0-100% B (B=90% HPLC grade acetonitrile/0.1% trifluoroacetic acid/10% HPLC grade water), (A=90% HPLC grade water/0.1% trifluoroacetic acid/10% HPLC grade acetonitrile), in 4 minutes with a 1 minute hold at a rate of 0.8 mL/minute. 1H NMR (400 MHz, THF-d8) δ ppm 2.92-2.97 (m, 3H), 3.60-3.62 (m, 3H), 7.19-7.26 (m, 2H), 7.27-7.34 (m, 3H), 7.37 (d, J=8.03 Hz, 1H), 7.41-7.45 (m, 1H), 7.46-7.52 (m, 1H), 7.62-7.67 (m, 1H), 7.68-7.73 (m, 1H), 7.92 (dd, J=7.91, 2.13 Hz, 1H), 8.05 (d, J=1.25 Hz, 1H), 8.12-8.19 (m, 2H), 8.29 (d, J=2.01 Hz, 1H). LCMS m/z 514.2 (M+H), Rt=3.908 min., 93% purity.

reactant | dicyclohexyl(2′,6′-dimethoxy biphenyl-2-yl)phosphine | 0.040 mmol, 16.42 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | methyl 2-chloro-5-(2-(4-fluorophenyl)-3-(methyl carbamoyl)benzofuran-5-yl)benzoate | 0.2 mmol, 87.6 mg | ClC1=C(C(=O)OC)C=C(C=C1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1 | C24H17ClFNO4
reactant | potassium phosphate | 0.800 mmol, 0.170 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-chlorophenylboronic acid | 0.600 mmol, 0.094 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 0.040 mmol, 8.98 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 0.600 mL | O | H2O
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | methyl 2′-chloro-4-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)biphenyl-2-carboxylate | 43.8 mgs, 80% yield | ClC1=C(C=CC=C1)C=1C(=CC(=CC1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)C(=O)OC | C30H21ClFNO4
